US05817830
Preparation of 2-(2',2',3',3',4',4',4'-heptafluoro-1'-trimethylsiloxybutyl)pyrrole
A solution of 2-(2',2',3',3',4',4',4'-heptafluoro-1'-hydroxybutyl)pyrrole (2.6514 g, 10 mmol) dissolved in 25 ml of dry THF was transferred by canula to a suspension of sodium hydride (0.2640 g, 11 mmol) in 50 ml of THF. The mixture was stirred for 2 hours at room temperature. Trimethylsilyl chloride (1.195 g, 11 mmol) was added dropwise and the solution was stirred overnight. The resulting suspension was evaporated almost to dryness and 50 ml of water was added. The mixture was extracted 3×50 mL with pentane and the organic layers were combined and dried over magnesium sulfate. Upon standing the MgSO4 withdrew a brown impurity from solution leaving a colorless organic layer. The solvent was evaporated leaving a light brown oil (3.128 g). 1H NMR showed that the crude material was 96% product by weight. The overall yield was therefore calculated to be 89%. 1H NMR (CDCl3, 360 MHz) 8.43 (broad s, 1 H); 6.83 (m, 1 H); 6.22 (m, 1 H) 6.17 (q, 1 H, J=2.8 Hz) 5.16 (dd, 1 H, J1=18.5 Hz, J2=5.8 Hz); 0.03 (s, 9 H)

reactant | 2-(2',2',3',3',4',4',4'-heptafluoro-1'-hydroxybutyl)pyrrole | 10 mmol, 2.6514 g | FC(C(O)C=1NC=CC1)(C(C(F)(F)F)(F)F)F | C8H6F7NO
reactant | sodium hydride | 11 mmol, 0.2640 g | [H-].[Na+]
reactant | Trimethylsilyl chloride | 11 mmol, 1.195 g | C[Si](C)(C)Cl | C3H9ClSi
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-(2',2',3',3',4',4',4'-heptafluoro-1'-trimethylsiloxybutyl)pyrrole | 3.128 g | FC(C(O[Si](C)(C)C)C=1NC=CC1)(C(C(F)(F)F)(F)F)F | C11H14F7NOSi
